US07786108B2
To a solution of chloral hydrate (6.08 g, 36.74 mmol) and anhydrous sodium sulfate (28.5 g, 200.4 mmol) in water (102 mL) add a mixture of hydroxylamine sulfate (28.5 g, 173.68 mmol), 2-methyl-3-trifluoromethyl-phenylamine (5.85 g, 33.4 mmol), concentrated hydrochloric acid (3.5 mL) in water (34 mL). Heat the mixture at 35° C. for 1 h, then heat up to 52° C. for 90 min and at 75° C. for 1 h. Cool the mixture to room temperature and filter the solid. Wash the solid with water and hexane. Dry the solid under vacuum to afford 2-hydroxyimino-N-(2-methyl-3-trifluoromethyl-phenyl)-acetamide: MS (ES+): 245 (M−H). Add the former crude in small portions at 60° C. to concentrated sulfuric acid (44 mL) and heat the mixture at 80° C. for 1 h. Cool to room temperature, pour into ice water (100 mL) and filter the precipitate. Wash the solid with cool water twice. Dry the solid to afford the title compound (3.54 g, 46% two steps). MS (ES−): 228 (M−H).

reactant | chloral hydrate | 36.74 mmol, 6.08 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 200.4 mmol, 28.5 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine sulfate | 173.68 mmol, 28.5 g | S(=O)(=O)(O)O.NO
reactant | 2-methyl-3-trifluoromethyl-phenylamine | 33.4 mmol, 5.85 g | CC1=C(C=CC=C1C(F)(F)F)N | C8H8F3N
reactant | hydrochloric acid | 3.5 mL | Cl | ClH
solvent | water | 102 mL | O | H2O
solvent | water | 34 mL | O | H2O
product | 2-hydroxyimino-N-(2-methyl-3-trifluoromethyl-phenyl)-acetamide | ON=CC(=O)NC1=C(C(=CC=C1)C(F)(F)F)C | C10H9F3N2O2
